US04153596
Bis-methoxymethyl urea stabiliser corresponding to the formula
36.3 parts of β-(2,2,6,6-tetramethylpiperidine-4-yl)amino-propionic acid hydrazide are dissolved in 100 parts of toluene, followed by the dropwise addition of 28.2 parts of 93% methoxymethyl isocyanate. After stirring for 1 hour at 25° C., the deposit is filtered off under suction. The filter residue is stirred with 300 parts of petroleum ether and refiltered under suction. 48 parts of colourless crystals melting at 62° to 65° C. are left after drying.

reactant | β-(2,2,6,6-tetramethylpiperidine-4-yl)amino-propionic acid hydrazide | CC1(NC(CC(C1)NCCC(=O)NN)(C)C)C | C12H26N4O
reactant | methoxymethyl isocyanate | COCN=C=O | C3H5NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | Bis-methoxymethyl urea | COCNC(NCOC)=O | C5H12N2O3
